US07494999B2
To a solution of 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carbonitrile (23 mg, 0.0440 mmol) in toluene (1 ml) was added dibutyltin oxide (13 mg, 0.0281 mmol) and azidotrimethylsilane (5 μL, 0.0377 mmol). The reaction mixture was stirred at 105° C. for 20 h upon which an additional amount of dibutyltin oxide (13 mg, 0.0281 mmol) and azidotrimethylsilane (25 μL, 0.1884 mmol) was added and stirred at 105° C. for 4 h. The reaction mixture was cooled to room temperature and then directly purified by silica gel column chromatography (0-10% MeOH in dichloromethane) to afford cis-2,6-dimethyl-1-[2-(1H-tetrazol-5-yl)-indane-4-sulfonyl]-4-(4-trifluoromethoxy-phenyl)-piperazine (14 mg, 61%). 1H NMR (400 MHz, CD3OD) δ ppm 7.75 (d, 1H), 7.54 (d, 1H), 7.39 (t, 1H), 7.09 (d, 2H), 6.90 (d, 2H), 4.18-4.02 (m, 3H), 3.89 (dd, 1H), 3.59-3.51 (m, 2H), 3.36-3.31 (m, 3H), 2.66-2.60 (m, 2H), 1.48 (d, 6H). LCMS: 523.11 (M+1)+.

reactant | 4-[cis-2,6-dimethyl-4-(4-trifluoromethoxy-phenyl)-piperazine-1-sulfonyl]-indan-2-carbonitrile | 0.0440 mmol, 23 mg | C[C@@H]1N([C@@H](CN(C1)C1=CC=C(C=C1)OC(F)(F)F)C)S(=O)(=O)C1=C2CC(CC2=CC=C1)C#N | C23H24F3N3O3S
reactant | dibutyltin oxide | 0.0281 mmol, 13 mg | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 0.0377 mmol, 5 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | dibutyltin oxide | 0.0281 mmol, 13 mg | C(CCC)[Sn](CCCC)=O
reactant | azidotrimethylsilane | 0.1884 mmol, 25 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
product | cis-2,6-dimethyl-1-[2-(1H-tetrazol-5-yl)-indane-4-sulfonyl]-4-(4-trifluoromethoxy-phenyl)-piperazine | 14 mg, 61% | C[C@@H]1N([C@@H](CN(C1)C1=CC=C(C=C1)OC(F)(F)F)C)S(=O)(=O)C=1C=2CC(CC2C=CC1)C1=NN=NN1 | C23H25F3N6O3S
